### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): Existence of a path from `u` to `v` of length equal to `G.dist u v`

### PR DESCRIPTION
**Pull request by Rida-Hamadani**
Checkout [this](https://leanprover.zulipchat.com/#narrow/stream/113489-new-members/topic/.E2.9C.94.20Confused.20by.20recursive.20proofs) conversation on zulip.
Co-authored-by: Kyle Miller [kmill31415@gmail.com](mailto:kmill31415@gmail.com)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Connectivity.lean [hunk 1]
```diff
@@ -1475,6 +1475,24 @@ theorem length_bypass_le {u v : V} (p : G.Walk u v) : p.bypass.length ≤ p.leng
       exact add_le_add_right ih 1
 #align simple_graph.walk.length_bypass_le SimpleGraph.Walk.length_bypass_le
 
+lemma bypass_eq_of_length_le {u v : V} (p : G.Walk u v) (h : p.length ≤ p.bypass.length) :
```
Comment (loefflerd) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity.lean:1478]: Maybe `bypass_eq_self_of_length_le`? Otherwise it's not clear from the name what `p.bypass` is supposed to be equal to.

File: Mathlib/Combinatorics/SimpleGraph/Metric.lean [hunk 2]
```diff
@@ -122,4 +122,27 @@ theorem dist_comm {u v : V} : G.dist u v = G.dist v u := by
     simp [h, h', dist_eq_zero_of_not_reachable]
 #align simple_graph.dist_comm SimpleGraph.dist_comm
 
+theorem Walk.IsPath_length_eq_dist {u v : V} (p : G.Walk u v) (hp : p.length = G.dist u v) :
```
Comment (loefflerd) [inline Mathlib/Combinatorics/SimpleGraph/Metric.lean:125]: This should perhaps be `isPath_of_length_eq_dist`.

File: Mathlib/Combinatorics/SimpleGraph/Metric.lean [hunk 3]
```diff
@@ -122,4 +122,27 @@ theorem dist_comm {u v : V} : G.dist u v = G.dist v u := by
...
+      _ = G.dist u v := hp
+      _ ≤ p.bypass.length := dist_le p.bypass
+  rw [← this]
+  apply Walk.bypass_isPath
+
+lemma Reachable.exists_path_of_dist {u v : V} (hr : G.Reachable u v) :
+    ∃ (p : G.Walk u v), p.IsPath ∧ p.length = G.dist u v := by
+  obtain ⟨p, h⟩ := hr.exists_walk_of_dist
+  refine ⟨p, ?_, h⟩
+  exact p.IsPath_length_eq_dist h
```
Comment (loefflerd) [inline Mathlib/Combinatorics/SimpleGraph/Metric.lean:140]:
```suggestion
  exact ⟨p, p.IsPath_length_eq_dist h, h⟩
```
(& again in next lemma)

**Review by loefflerd — COMMENTED** [review]
I suggested a few minor stylistic changes (naming of lemmas). Otherwise, looks good!

File: Mathlib/Combinatorics/SimpleGraph/Connectivity.lean (hunk 1 above)
Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity.lean:1478]: You are right, thanks for the review, I will make changes asap.

**Review by loefflerd — APPROVED** [review]
This looks good to me now – thanks!

maintainer merge

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
